US08877780B2
A stirred mixture of 4-(methylthio)benzoic acid (0.34 g, 2.00 mmol) and CDI (0.34 g, 2.10 mmol) in N,N-dimethylformamide (20 mL) was heated to 40° C. under nitrogen. After 2 h, 5-aminomethyl-2-(3-methyl-2,6-dioxo-piperidin-3-yl)-isoindole-1,3-dione hydrochloride (0.68 g, 2.00 mmol) was added and the mixture was heated at 40° C. for 2 h. The mixture was cooled to rt and EtOAc (75 mL) was added. The organic layer was washed with sat. aq. NaHCO3 (3×100 mL) then concentrated in vacuo. The crude residue was purified by column chromatography (CH2Cl2/MeOH, gradient, product eluted after 4.7 min). The product fractions were combined and concentrated to give N-[2-(3-methyl-2,6-dioxo-piperidin-3-yl)-1,3-dioxo-2,3-dihydro-1H-isoindol-5-ylmethyl]-4-methylsulfanyl-benzamide as a white solid (0.24 g, 26% yield): HPLC: Waters Symmetry C18, 5 μm, 3.9×150 mm, 1 mL/min, 240 nm, 40/60 CH3CN/0.1% H3PO4, 4.74 min (98.27%); mp: 218-220° C.; 1H NMR (DMSO-d6) δ 1.88 (s, 3H), 1.99-2.10 (m, 1H), 2.51-2.61 (m, 5H), 2.62-2.78 (m, 1H), 4.61 (d, J=5.9 Hz, 2H), 7.34 (d, J=8.3 Hz, 2H), 7.64-7.96 (m, 5H), 9.17 (t, J=5.9 Hz, 1H), 11.01 (s, 1H); 13C NMR (DMSO-d6) δ 14.12, 21.02, 28.57, 29.09, 42.57, 58.76, 121.60, 123.19, 124.95, 127.74, 129.59, 129.93, 131.38, 133.38, 142.84, 147.52, 165.86, 167.73, 167.88, 172.13, 172.19; LCMS: MH=452; Anal Calcd for C23H21N3O5S: C, 61.18; H, 4.69; N, 9.31. Found: C, 60.82; H, 4.85; N, 8.96.

reactant | 4-(methylthio)benzoic acid | 2.00 mmol, 0.34 g | CSC1=CC=C(C(=O)O)C=C1 | C8H8O2S
reactant | CDI | 2.10 mmol, 0.34 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | 5-aminomethyl-2-(3-methyl-2,6-dioxo-piperidin-3-yl)-isoindole-1,3-dione hydrochloride | 2.00 mmol, 0.68 g | Cl.NCC=1C=C2C(N(C(C2=CC1)=O)C1(C(NC(CC1)=O)=O)C)=O
reactant | EtOAc | 75 mL | CCOC(=O)C | C4H8O2
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | N-[2-(3-methyl-2,6-dioxo-piperidin-3-yl)-1,3-dioxo-2,3-dihydro-1H-isoindol-5-ylmethyl]-4-methylsulfanyl-benzamide | 0.24 g, 26% yield | CC1(C(NC(CC1)=O)=O)N1C(C2=CC=C(C=C2C1=O)CNC(C1=CC=C(C=C1)SC)=O)=O | C23H21N3O5S
